US05434149
2-pyrrolidinoethyl-5-(3-methoxy-4-fluoromethoxyphenyl)-6-ethyl-3,6-dihydro-1,3,4-thiadiazin-2-one;
of 5-(3-methoxy-4-difluoromethoxyphenyl)-6-ethyl-3,6-dihydro-1,3,4-thiadiazin-2-one with 1-chloro-2-morpholinoethane:

reactant | 5-(3-methoxy-4-difluoromethoxyphenyl)-6-ethyl-3,6-dihydro-1,3,4-thiadiazin-2-one | COC=1C=C(C=CC1OC(F)F)C1=NNC(SC1CC)=O | C13H14F2N2O3S
reactant | 1-chloro-2-morpholinoethane | ClCCN1CCOCC1 | C6H12ClNO
product | 2-pyrrolidinoethyl-5-(3-methoxy-4-fluoromethoxyphenyl)-6-ethyl-3,6-dihydro-1,3,4-thiadiazin-2-one | N1(CCCC1)CCN1C(SC(C(=N1)C1=CC(=C(C=C1)OCF)OC)CC)=O | C19H26FN3O3S
